US03991202
In a manner similar to that previously described, 4.2 parts of 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-imidazole, 1.7 parts of 2-chloro-4'-fluoroacetophenone and 40 parts of methylene chloride are mixed together and stirred at reflux temperature for 15 hours. Thereafter, the solvent is evaporated under reduced pressure and the residue triturated in 4-methyl-2-pentanone. The solid is recovered by filtration and crystallized from acetonitrile to obtain a purified 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-(p-fluorobenzoylmethyl)-imidazolium chloride product, mp. 181° C.

reactant | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-imidazole | ClC1=C(C(CN2C=NC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C18H14Cl4N2O
reactant | 2-chloro-4'-fluoroacetophenone | ClCC(=O)C1=CC=C(C=C1)F | C8H6ClFO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-(p-fluorobenzoylmethyl)-imidazolium chloride | [Cl-].ClC1=C(C(C[N+]2=CN(C=C2)CC(C2=CC=C(C=C2)F)=O)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | InChI=1S/C26H20Cl4FN2O2.ClH/c27-19-4-1-18(23(29)11-19)15-35-26(22-8-5-20(28)12-24(22)30)14-33-10-9-32(16-33)13-25(34)17-2-6-21(31)7-3-17;/h1-12,16,26H,13-15H2;1H/q+1;/p-1
